US04876343
Approximately 150 mmol of (S)-2,5-dihydro-4-hydroxy-5-(2-methylpropyl-2-oxo-1H-pyrrole-3-carboxylic acid, ethyl ester is added as rapidly as possible to 1 L of boiling ethanol-water (1:1, pot temperature 85°-87° C.) in a 3 L beaker with vigorous stirring. Complete solution occurs rapidly and vigorous effervescence is observed. Refluxing is continued 20 minutes until the CO2 evolution ceases. The beaker is plunged into an ice bath to rapidly cool the solution, 120 g of sodium chloride and 500 ml of ethyl acetate are added and the organic layer is separated. The aqueous layer is extracted with 2×500 ml of ethyl acetate and the organic fractions combined, dried over magnesium sulfate and evaporated to a solid. The solid is slurried in 200 ml of diethyl ether, diluted with 200 ml of ethyl acetate, and stirred approximately 15 minutes until most of the solid dissolves. The insoluble material is filtered off and the filtrate evaporated to afford 15.9 g of (S)-5-(2-methylpropyl)-2,4-pyrrolidinedione as an off-white solid; mp 94°-95° C. [α]D23 =-80° (C=1%, chloroform). TLC (ethyl acetate, silica gel, ultra violet (uv)) Rf =0.4.

reactant | 2-methylpropyl-2-oxo-1H-pyrrole-3-carboxylic acid, ethyl ester | CC(CN1C(C(C=C1)C(=O)OCC)=O)C | C11H17NO3
reactant | ethanol water | 1 L | C(C)O.O
reactant | CO2 | C(=O)=O | CO2
reactant | sodium chloride | 120 g | [Cl-].[Na+]
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | (S)-5-(2-methylpropyl)-2,4-pyrrolidinedione | 15.9 g | CC(C[C@H]1C(CC(N1)=O)=O)C | C8H13NO2
